US08497368B2
(E)-1-Methyl-2-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide
The title compound was prepared as a white solid in analogy to the synthesis of example 52 from 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone and 1-methylhydrazine-carboxamide. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.68 (s, 1H), 8.89 (m, 1H), 8.36 (d, 1H), 8.03 (s, 1H), 8.01 (d, 1H), 7.82 (dd, 1H), 7.53 (dd, 1H), 6.75 (s, 2H), 6.21 (s, 2H) 2.50 (s, 3H), 2.49 (s, 3H). LCMS (method B): [MH]+=376, tR=1.88 min.

reactant | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
reactant | 1-methylhydrazine-carboxamide | CN(N)C(=O)N | C2H7N3O
product | (E)-1-Methyl-2-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide | CN(/N=C(\C)/C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2)C(=O)N | C18H17N9O
